US05185251
Step D: 3-[2-(benzoxazol-2-yl)ethenyl]-5-(1-hydroxyethyl)-6-methyl-2-benzyloxypyridine
Following substantially the same procedure described in Example 3, Step E, but substituting 2-benzyloxy-5-(1-hydroxyethyl)-6-methylpyridin-3-carboxaldehyde for the benzyloxynicotinaldehyde compound used therein, the title compound is obtained.

reactant | 2-benzyloxy-5-(1-hydroxyethyl)-6-methylpyridin-3-carboxaldehyde | C(C1=CC=CC=C1)OC1=NC(=C(C=C1C=O)C(C)O)C | C16H17NO3
reactant | benzyloxynicotinaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=N1 | C13H11NO2
product | 3-[2-(benzoxazol-2-yl)ethenyl]-5-(1-hydroxyethyl)-6-methyl-2-benzyloxypyridine | O1C(=NC2=C1C=CC=C2)C=CC=2C(=NC(=C(C2)C(C)O)C)OCC2=CC=CC=C2 | C24H22N2O3
